Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
aspirin / NSAIDS (Non-Steroidal Anti-Inflammatory Drug)
 
Attending: ___.
 
Chief Complaint:
seizures, status epilepticus
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year old man who initially presented to 
our
Neuro ICU from ___ on ___ after he was found to
be in status epilepticus.  He has a medical history significant
for HTN, HLD, psoriasis, chronic back pain on home opiates,
question of alcohol abuse, but no prior history of seizures.  
Per
report from his wife, he had been feeling well on ___.  He went
to bed and woke up at 7:30AM complaining of left knee pain while
he was in bed.  He apparently accidentally rolled out of bed by
accident, and when his wife found him on the floor, he had
labored breathing and appeared confused briefly.  Shortly after
this episode he returned to baseline and was able to get back up
into bed, go to the bathroom and prepare a cup of coffee without
further deficit.  Around 9AM, however, he had a subsequent event
while seated in a chair watching TV.  Per report, he shouted the
phrase "Dont leave" after which he had a fixed gaze forward that
was associated with whole-body stiffening.  This developed into
bilateral arm shaking with a tongue bite that lasted ___ 
minutes.
His wife called EMS and by the time they arrived, his posture
improved but he was confused and unable to converse.  En route 
to
the hospital, EMTs reported that he had return to baseline 
mental
status.  At ___, however, he had a prolonged witnessed 
GTC
seizure in the ED that was refractory to 6 mg ativan.  It is
unclear how long he seized, but subsequently he was loaded with
dilantin and then intubated/sedated with propafol for seizure
control.   Broad spectrum antibiotics (vancomycin, cefepime,
acyclovir) for meningitis coverage were started and NCHCT was
done which showed no abnormality.

By the time he arrived to ___ he had no seizures.   MRI showed
no abnormalities, EEG showed diffuse slowing but no seizures, 
and
LP (0 WBCs) was unremarkable.  Phenytoin trough was found to be
low and a decision was made to transition Dilantin to Keppra
1000mg BID.  He was successfully extubated on ___ and mental
status.  He was placed on CIWA scale ___ for agitation and
tremulousness, though secondary to possible alcohol withdrawal. 
Incidentally he was found to have a humeral fracture which was
repaired by orthopedics on ___.

With respect to seizure history there is no known head trauma. 
No
personal or family history of seizures.   He drinks ___ drinks
per night but reportedly sneaks more alcohol and his daily
alcohol intake may be higher.  He has not had signs of recent
infection. General review of systems prior to this event was
unremarkable

 
Past Medical History:
PMHx:
- HTN
- HLD
- Psoriasis
- Arthritis
- H/O peptic ulcer disease
- Chronic back pain
- S/P L knee surgery
- S/P L rotator cuff repair

 
Social History:
Family Hx: Father had cerebral aneurysm at ___ that left him
unable to speak or move half his body. Otherwise no family
history of neurologic disorders or early cardiovascular disease.

 
Family History:
Social Hx: Retired ___, now disabled due to knee injury.
Lives at home with his wife. Independent in all his ADLs. 
Drives.
Drinks ~2 alcoholic beverages per night. Smokes ___ PPD. No
illicits.
 
Physical Exam:
GENERAL EXAM:

- Vitals: 98.9, 120/52, 94, 22
- General: intubated, sedated with fent/propofol
- HEENT: NC/AT, MMM
- Neck: in hard C collar. No frank meningismus.
- Pulmonary: clear to auscultation
- Cardiac: RRR, no murmurs
- Abdomen: soft, nontender, nondistended
- Extremities: no edema, pulses palpated. Scars over left knee
and left shoulder.
- Skin: no rashes or lesions noted.

NEURO:
 - MS: Knows age, hospital  ___ (spontaneously), follows
verbal commands
 - CN: PERRL, small minimally reactive. EOMI. Face symmetric.
 - MOTOR: Moving all extremities at least anti-gravity, exam
somewhat limited by Ativan and pain meds. LUE s/p humerus
fracture repair.
 - SENSORY: Intact to pain all extremities
 - CERBELLAR: RUE ___

DISCHARGE NEUROLOGIC EXAM:

Mental Status:  Alert to self, hospital, month, president.  He 
has difficulty with ___ backwards.  Recalls ___ at 5 minutes.  
No dysarthria.  No apraxia or neglect.
Cranial Nerves:  Normal.  No nystagmus or diplopia
Motor: 
    D  B  T  WE  WF  FE  IO   IP   Q   H   TA  ___  ___
L   2  *  *  4+  ___-   5    ___   5  5
R   ___  ___   5    5    ___   5  5
* LUE srugery, pain limits
Normal bulk, tone.  Fine postural and intention tremor of the 
right hand.
Reflexes: normal, dropped Achilles, downgoing toes
Sensory:  No deficits to gross touch. 
Cerebellar:  Intact FNF with slight intention tremor, Intact 
heel shin bilaterally. Negative Romberg
Gait:  walking with ___ with cane

 
Pertinent Results:
LABS:
___ labs)
134  102  ___  / 106
2.8  25  0.6 \

Ca: 7.9 Mg: 1.7 P: 1.8

10.4  11.1  277
      32.6
Hct from 33.9

___: 12.4  PTT: 33.4  INR: 1.1

NCHCT ___, OSH, my read): no large-territory infarcts or
hemorrhages present. Ventricles appear patent without
hydrocephalus. No masses, edema, or midline shift. Mild global
atrophy present, somewhat disproportionately around the temporal
lobes bilaterally.

MRI  chronic white matter changes, no acute stroke or lesion

___ 04:44PM CEREBROSPINAL FLUID (CSF)  PROTEIN-48* 
GLUCOSE-87
___ 04:44PM CEREBROSPINAL FLUID (CSF)  WBC-0 RBC-1* POLYS-0 
___ MACROPHAG-36
 
Brief Hospital Course:
ICU COURSE: Admitted ___ for status epilepticus (first 
seizure
at home appeared to be GTC, several seizures at ___
without recovery between); known EtOH history with question of
withdrawal seizures.  EEG without seizure activity ( though 
found with low phenytoin
trough, switched fosphenytoin to Keppra ___. In ICU LP, MRI,
toxic/metabolic work-up unrevealing. Extubated evening of 
___,
scored for CIWA ___ for agitation, tremulousness. Also he 
was incidentally found with LUE humerus fracture went to OR for 
fixation on ___. 

GENERAL NEURO COURSE:
___ p/w status epilepticus stepped down from
Neuro ICU on ___ presumably from ETOH withdrawal.  Workup showed 
normal LP, normal MRI/NCHCT, and unrevealing toxic/metabolic 
work-up.  During his seizures he sustained a left humerus 
fracture and now s/p LUE humerus fracture repair on ___.  Neuro 
exam is non focal. Initially he was scoring >12 on the CIWA 
scale for agitation, tremulousness and hallucinations but this 
imporved substantially by ___ and he required no further prn 
ativan.  No clear provoking metabolic factor for new seizures.  
He admits to 3 drinks of vodka per evening (with some question 
of heavier drinking per wife), he takes a significant number of 
narcotics for his chronic back and knee pain and we suspect that 
alcohol withdrawal and medications may have precipitated the 
event.  

# NEURO:  Seizures on presentation have resolved.
- continue Keppra 1,000 mg BID
- Thiamine 100mg qd x5 days. Folate and B12 normal
- MRI read as normal, no acute abnormality to account for 
seizure
- LP studies including HSV are negative

# ORTHO: s/p repair of fractured L humerus ___.  Hx of 
psoriasis,
arthritis, chronic back pain. Remote history of L TKR and L 
rotator cuff
repair. 
- Pain control with Dilaudid IV PRN ---> transitioned back to 
home pain medications
- Plan to continue etanercept at home

# CV: HLD, HTN
- Telemetry

# ID: Afebrile during this admission. no S/S infection to lower 
seizure threshold.   No clear source of infection. He had a 
briefly elevated WBC post-operation that was thought to be a 
result of his surgery.  

# HEME: anemia with slight macrocytosis.
- B12, folate checked and were normal

 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. etanercept 50 mg/mL (0.98 mL) Subcutaneous Unknown 
2. Omeprazole 20 mg PO DAILY 
3. Gemfibrozil Dose is Unknown  PO Frequency is Unknown 
4. Gabapentin 300 mg PO BID 
5. OxycoDONE (Immediate Release)  15 mg PO HS 
6. OxycoDONE (Immediate Release)  15 mg PO BID:PRN breakthrough 
pain 
7. Hydrocodone-Acetaminophen (5mg-500mg) 2 TAB PO Q6H:PRN pain 

 
Discharge Medications:
1. Gabapentin 300 mg PO BID 
2. etanercept 50 mg/mL (0.98 mL) Subcutaneous Unknown 
3. Gemfibrozil 600 mg PO BID 
4. Omeprazole 20 mg PO DAILY 
5. Calcium Carbonate 500 mg PO QID:PRN gerd 
6. Thiamine 100 mg PO DAILY 
7. LeVETiracetam 1000 mg PO BID 
RX *levetiracetam 1,000 mg 1 tablet(s) by mouth twice daily Disp 
#*60 Tablet Refills:*5
8. Hydrocodone-Acetaminophen (5mg-500mg) 2 TAB PO Q6H:PRN pain 
9. OxycoDONE (Immediate Release)  15 mg PO Q8H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: Seizure secondary to presumed alcohol withdrawal
SECONDARY: Left humerus fracture

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Neurology: Awake, alert, oriented, attentive, speech fluent, 
follows commands, full strength of the right arm and both legs, 
left arm in sling but good distal strength of the hand.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to ___ as a 
transfer from ___ on ___ after you had a cluster of 
seizures.  At ___ you were given ativan and 
dilantin and you had to be intubated to control your seizures 
and protect your breathing.   A CT scan showed that you had no 
stroke or lesion to account for seizures.  At ___ MRI 
showed no abnormalities, EEG showed no seizures, and lumbar 
puncture showed no signs of infection.  We changed your 
antiseizure medication to KEPPRA 1000mg twice daily and you were 
successfully extubated on ___.  During your seizure, you 
fractured your left arm and that was repaired by orthopedics on 
___.  After the surgery you had agitation and tremulousness 
that was concerning for alcohol withdrawal.  For severe symptoms 
we gave you ativan as needed, but you improved greatly by ___.  
Our physical therapists felt you were appropriate to be 
discharged to home with home ___ and a cane.  

There was no abnormality with your brain or infection to explain 
why you had a seizure.  Given your tremulousness and agitation, 
we suspect that your seizure may be related to alcohol intake.  
It is very improtant that you make continued efforts to stop 
drinking, as withdrawal from alcohol will put you at risk for 
repeat seizures. Please take the medications listed on this 
summary (KEPPRA/LEVETIRACETAM) and come to the follow-up 
appointments we have arranged.  Thank you for allowing us to 
participate in your care.

You also have a fracture of your left arm as well as 
dislocation. The Orthopedic Surgeons operated and fixed this 
issue. They want you to followup in the Orthopedics Trauma 
Clinic on the ___ of ___ in ___ days from discharge. 
They also want you to follow these instructions:
1. Keep your arm at your side. Do not perform any range of 
motion exercises. Your physical therapists may perform 
"pendulum" exercises which they will tell you about.
2. You do not need to place a dressing on the surgical wound 
unless there is drainage. If so, you can place a clean gauze 
bandage with medical tape on the surgical wound as needed.
 
Followup Instructions:
___